US08865736B2
2,6-Difluoro-3-[4′-(4-methoxy-phenyl)-[2,5′]bithiazolyl-2′-ylmethoxy]-benzamide
To a solution of 3-[5-bromo-4-(4-methoxy-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide (0.1 g, 0.2 mmol) in 5 ml of anhydrous DMF was added 2-tributylstannyl thiazole (0.071 g, 0.2 mmol) and degassed the reaction mixture for the 10 minutes. Then added tetraphenylphosphine palladium (0) (0.026 g, 0.2 mmol). The reaction mixture was heated at 120° C. for 12 h under the nitrogen atmosphere. Then reaction mixture was cooled to rt. 100 ml of water was added into it and extracted the compound with ethyl acetate, The combined organic layers were dried over anhydrous Na2SO4, and evaporated to dryness under reduced pressure. The compound was purified by column chromatography on silica (230-400μ) using ethyl acetate (40:60) as the eluent to provide the title compound as yellow solid (0.003 g, 3%). 1H NMR (DMSO-d6, 400 MHz): δ 3.82 (s, 3H), 5.57 (s, 2H), 7.06 (d, 1H, J=8.4 Hz (o-coupling), 7.13 (dt, 1H), 7.39-7.47 (m, 1H), 7.51 (d, 2H, J=8.4 Hz (o-coupling), 7.52-7.58 (m, 1H), 7.59-7.86 (m, 2H), 7.68 (d, 1H, J=3.2 Hz), 7.84 (d, 1H, J=3.2 Hz), 7.89 (broad s, 1H), 8.18 (broad s, 1H), 9.12 (s, 1H); MS ES+ (460.01), HPLC (method 5) Rt=15.64 min.

reactant | 3-[5-bromo-4-(4-methoxy-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide | 0.2 mmol, 0.1 g | BrC1=C(N=C(S1)COC=1C(=C(C(=O)N)C(=CC1)F)F)C1=CC=C(C=C1)OC | C18H13BrF2N2O3S
reactant | 2-tributylstannyl thiazole | 0.2 mmol, 0.071 g | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
reactant | water | 100 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | tetraphenylphosphine palladium (0) | 0.2 mmol, 0.026 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 2,6-Difluoro-3-[4′-(4-methoxy-phenyl)-[2,5′]bithiazolyl-2′-ylmethoxy]-benzamide | 0.003 g, 3% | FC1=C(C(=O)N)C(=CC=C1OCC=1SC(=C(N1)C1=CC=C(C=C1)OC)C=1SC=CN1)F | C21H15F2N3O3S2
